US08748615B2
WO2005/118547 describes a general method of synthesis which is difficult to transpose to the industrial scale for production in large quantities. This method of synthesis entails reacting 2-(2,2,2-trifluoroacetyl)-1,2,3,4-tetrahydro-isoquinoline-7-sulfonyl chloride with (+/−)-2-(2-aminoethyl)-1-methylpyrrolidine, which product is deprotected in methanol and hydrochloric acid. The enantiomers are next separated by chiral chromatography. The resulting N-{2-[(2S)-1-methylpyrrolidin-2-yl]ethyl}-1,2,3,4-tetrahydroisoquinoline-7-sulfonamide undergoes reductive amination with cyclohexanecarboxaldehyde in the presence of a palladium catalyst. 2-(Cyclohexylmethyl)-N-{2-[(2S)-1-methylpyrrolidin-2-yl]ethyl}-1,2,3,4-tetrahydroisoquinoline-7-sulfonamide is isolated as the free base and converted to a salt.

reactant | 2-(2,2,2-trifluoroacetyl)-1,2,3,4-tetrahydro-isoquinoline-7-sulfonyl chloride | FC(C(=O)N1CC2=CC(=CC=C2CC1)S(=O)(=O)Cl)(F)F | C11H9ClF3NO3S
reactant | (+/−)-2-(2-aminoethyl)-1-methylpyrrolidine | NCCC1N(CCC1)C | C7H16N2
solvent | methanol | CO | CH4O
solvent | hydrochloric acid | Cl | ClH
product | 2-(Cyclohexylmethyl)-N-{2-[(2S)-1-methylpyrrolidin-2-yl]ethyl}-1,2,3,4-tetrahydroisoquinoline-7-sulfonamide | C1(CCCCC1)CN1CC2=CC(=CC=C2CC1)S(=O)(=O)NCC[C@H]1N(CCC1)C | C23H37N3O2S
